US07645764B2
4-Methyl-3-(8-methyl-2-methylsulfanyl-7-oxo-7,8-dihydro-pyrido[2,3-d]pyrimidin-6-yl)-benzoic acid methyl ester (1.0 g, 2.81 mmol) was dissolved in 4 mL THF, and 1.0 M aqueous LiOH (2.8 mL, 2.81 mmol) was added. The reaction mixture was stirred at room temperature for 100 hours, then was partitioned between diethyl ether and water. The aqueous layer was acidified by addition of 5% aqueous HCl, and the resulting precipitate was collected by filtration, washed with water, and dried under vacuum to provide 820 mg of 4-methyl-3-(8-methyl-2-methylsulfanyl-7-oxo-7,8-dihydro-pyrido[2,3-d]pyrimidin-6-yl)-benzoic acid MS (M+H)=342.

reactant | 4-Methyl-3-(8-methyl-2-methylsulfanyl-7-oxo-7,8-dihydro-pyrido[2,3-d]pyrimidin-6-yl)-benzoic acid methyl ester | 2.81 mmol, 1.0 g | COC(C1=CC(=C(C=C1)C)C1=CC2=C(N=C(N=C2)SC)N(C1=O)C)=O | C18H17N3O3S
reactant | LiOH | 2.81 mmol, 1.0 M, 2.8 mL | [Li+].[OH-]
solvent | THF | 4 mL | C1CCOC1 | C4H8O
product | 4-methyl-3-(8-methyl-2-methylsulfanyl-7-oxo-7,8-dihydro-pyrido[2,3-d]pyrimidin-6-yl)-benzoic acid | 820 mg | CC1=C(C=C(C(=O)O)C=C1)C1=CC2=C(N=C(N=C2)SC)N(C1=O)C | C17H15N3O3S
